US08957093B2
4′-((5-(((S)-1-((S)-1-((benzyloxy)carbonyl)pyrrolidin-2-yl)ethyl)carbamoyl)-2,3-dimethyl-1H-indol-1-yl)methyl)-[1,1′-biphenyl]-2-carboxylic acid
The title compound was prepared following the same general protocol as described in Step 8-9, Example 1, using the (S)-benzyl 2-((S)-1-aminoethyl)pyrrolidine-1-carboxylate hydrochloride and the 1-((2′-(tert-butoxycarbonyl)-[1,1′-biphenyl]-4-yl)methyl)-2,3-dimethyl-1H-indole-5-carboxylic acid. ESI-MS (m/z): 630 [M+H]+.

reactant | (S)-benzyl 2-((S)-1-aminoethyl)pyrrolidine-1-carboxylate hydrochloride | Cl.N[C@@H](C)[C@H]1N(CCC1)C(=O)OCC1=CC=CC=C1
reactant | 1-((2′-(tert-butoxycarbonyl)-[1,1′-biphenyl]-4-yl)methyl)-2,3-dimethyl-1H-indole-5-carboxylic acid | C(C)(C)(C)OC(=O)C1=C(C=CC=C1)C1=CC=C(C=C1)CN1C(=C(C2=CC(=CC=C12)C(=O)O)C)C | C29H29NO4
product | 4′-((5-(((S)-1-((S)-1-((benzyloxy)carbonyl)pyrrolidin-2-yl)ethyl)carbamoyl)-2,3-dimethyl-1H-indol-1-yl)methyl)-[1,1′-biphenyl]-2-carboxylic acid | C(C1=CC=CC=C1)OC(=O)N1[C@@H](CCC1)[C@H](C)NC(=O)C=1C=C2C(=C(N(C2=CC1)CC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)O)C)C | C39H39N3O5
